US07135482B2
N-(Allyloxy)-3-(4-fluorobenzyl)-3H-imidazo[4,5-c]pyridine-6-carboxamide
The title compound was prepared by coupling of 3-(4-fluorobenzyl)-3H-imidazo[4,5-c]pyridine-6-carboxylic acid and N-allyloxyamine hydrochloride under the same conditions as those in step (c) of example 1. 1H NMR (300 MHz, MeOH-d4) δ; 8.71 (s, 1H), 8.53 (s, 1H), 8.31 (s, 1H), 7.40–7.33 (m, 2H), 7.09–7.01 (m, 2H), 6.01–5.99 (m, 1H), 5.57 (s, 2H), 5.40–5.20 (m, 2H), 4.41 (d, 2H, J=6.0 Hz). LCMS (API-ES, M+H+): 327.0.1. HRMS calcd for C17H16FN4O2 (M+H) 327.1257. found 327.1248. HPLC: 100% purity.

reactant | 3-(4-fluorobenzyl)-3H-imidazo[4,5-c]pyridine-6-carboxylic acid | FC1=CC=C(CN2C=NC3=C2C=NC(=C3)C(=O)O)C=C1 | C14H10FN3O2
reactant | N-allyloxyamine hydrochloride | Cl.C(C=C)ON
product | N-(Allyloxy)-3-(4-fluorobenzyl)-3H-imidazo[4,5-c]pyridine-6-carboxamide | C(C=C)ONC(=O)C1=CC2=C(C=N1)N(C=N2)CC2=CC=C(C=C2)F | C17H15FN4O2
